US07754759B2
To a solution of C—[(R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-yl]-methyl azide (1.76 g, 5.07 mmol) in 30 mL of THF was added 10% Pd/C (0.176 g). The reaction mixture was hydrogenated at 1.5 atmospheric pressure of hydrogen for 18 hours. The mixture was filtered and the filtrated was evaporated under reduced pressure. The residue was purified by flash chromatography (methylene chloride/MeOH 7:3) to give 1.53 g (94%) of C—[(R)-7-(3-Fluoro-benzenesulfonyl)-chroman-2-yl]-methylamine. MP=257.1-258.9° C.; MS (M+H)=322.

reactant | C—[(R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-yl]-methyl azide | 5.07 mmol, 1.76 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)CN=[N+]=[N-] | C16H14FN3O3S
reactant | hydrogen | [H][H] | H2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.176 g | [Pd] | Pd
product | C—[(R)-7-(3-Fluoro-benzenesulfonyl)-chroman-2-yl]-methylamine | 1.53 g, 94% | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)CN | C16H16FNO3S
